US05362878
3-Methyl-4-chloro-5-nitroquinoline was hydrogenated using Pd/C to give 3-methyl-5-aminoquinoline. This material was coupled with 2-(4-(1-methylpropyl)phenoxy) nonanoic acid according to the procedure outlined in Example 25 to give the title compound.

reactant | 3-Methyl-4-chloro-5-nitroquinoline | CC=1C=NC2=CC=CC(=C2C1Cl)[N+](=O)[O-] | C10H7ClN2O2
catalyst | Pd/C | [Pd] | Pd
product | 3-methyl-5-aminoquinoline | CC=1C=NC2=CC=CC(=C2C1)N | C10H10N2
